US06861424B2
Alternatively, 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-[(1-carboxy-3-(1,1-dimethylethoxycarbonyl)propyl)aminocarbonyl]quinoline (136 mg, 0.187 mmol) was treated with trifluoroacetic acid:methylene chloride (1:1, 1.2 mL) at ambient temperature for 1 hour. The solvents were evaporate and resulting residue diluted with methylene chloride, followed by evaporation of the solvent gave 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-[(1,3-dicarboxypropyl)aminocarbonyl]quinoline (112 mg); NMR (CD3OD) 1.20 (m, 3), 1.90 (m, 1), 2.10 (m, 2), 2.30-2.50 (m, 5), 3.40-3.80 (m, 8), 4.10 (m, 2), 4.70 (m, 1), 5.18 (m, 1), 7.60 (m, 1), 7.80 (m, 1), 8.20 (m, 3) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-[(1-carboxy-3-(1,1-dimethylethoxycarbonyl)propyl)aminocarbonyl]quinoline | 0.187 mmol, 136 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)C(=O)NC(CCC(=O)OC(C)(C)C)C(=O)O | C36H49N5O11
reactant | trifluoroacetic acid methylene chloride | 1.2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-[(1,3-dicarboxypropyl)aminocarbonyl]quinoline | 112 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)O)NC(=O)C1=NC2=CC=CC=C2C(=C1)C(=O)NC(CCC(=O)O)C(=O)O | C28H33N5O11
